US03989745
A mixture of 5-amino-4-benzoyl-3-n-butoxybenzoic acid (0.8 g), acetic anhydride (0.8 ml) and acetic acid (8.0 ml) is heated on a steam-bath for 1 hour. After cooling, the resulting solution is poured into water (about 20 ml) and the mixture is left at room temperature for about 20 hours. The resulting precipitate is collected by filtration and washed with water. After drying and recrystallization twice from aqueous ethanol, 5-acetamido-4-benzoyl-3-n-butoxybenzoic acid is obtained with a melting point of 177°-178° C.

reactant | 5-amino-4-benzoyl-3-n-butoxybenzoic acid | 0.8 g | NC=1C(=C(C=C(C(=O)O)C1)OCCCC)C(C1=CC=CC=C1)=O | C18H19NO4
reactant | acetic anhydride | 0.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 8.0 ml | C(C)(=O)O | C2H4O2
solvent | water | about 20 ml | O | H2O
product | 5-acetamido-4-benzoyl-3-n-butoxybenzoic acid | C(C)(=O)NC=1C(=C(C=C(C(=O)O)C1)OCCCC)C(C1=CC=CC=C1)=O | C20H21NO5
